US03996197
4-(4-nitrophenoxy)-salicylic acid phenyl ester was prepared in accordance with Example 1b by esterifying 4-(4-nitrophenoxy)-salicylic acid with diphenyl carbonate.

reactant | 4-(4-nitrophenoxy)-salicylic acid | [N+](=O)([O-])C1=CC=C(OC=2C=C(C(C(=O)O)=CC2)O)C=C1 | C13H9NO6
reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | 4-(4-nitrophenoxy)-salicylic acid phenyl ester | Yield: 60% | C1(=CC=CC=C1)OC(C=1C(O)=CC(=CC1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H13NO6
